US07323455B2
1-Methyl-5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile
Prepared from 5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile and iodomethane generally according to the procedure of example 3. 1H-NMR (DMSO-d6) δ 10.16 (s, 1H), 7.56 (dd, J=2.92, 5.02 Hz, 1H), 7.42 (dd, J=1.90, 8.42 Hz, 1H), 7.28-7.23 (m, 3H), 7.09 (dd, J=1.06, 4.83 Hz, 1H), 7.01 (d, J=4.06 Hz, 1H), 6.30 (d, J=4.08 Hz, 1H), 4.20 (d, J=15.95 Hz, 1H), 4.05 (d, J=15.93 Hz, 1H), 3.65 (s, 3H), 1.96 (s, 3H); MS (ES) m/z 362 ([M−H]−, 100%).

reactant | 5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C2=CSC=C2 | C19H15N3O2S
reactant | iodomethane | IC | CH3I
product | 1-Methyl-5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile | CN1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)(C2=CSC=C2)C)C1)C#N | C20H17N3O2S
